US06310086B1
(R)-3-[5-[2-[N-(tert-Butoxycarbonyl)-N-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl]amino]propyl]-7-carbamoyl-1H-indol-1-yl]propyl 2-ethylbutyrate (1.56 g) was dissolved in isopropano (10 ml), and concentrated hydrochloric acid (5.0 ml) was added dropwise to the solution under ice-cooling with stirring. After the mixture was stirred for 4 hours at room temperature, a saturated aqueous sodium bicarbonate solution was added to the reaction mixture under ice-cooling, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo, and the residue was purified by column chromatography on silica gel (eluent:methylene chloride/methanol=20/1) and recrystallized from diethyl ether-hexane to give (R)-3-[7-carbamoyl-5-[2-[[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl]amino]propyl]-1H-indol-1-yl]propyl 2-ethylbutyrate (1.10 g) as white crystals.

reactant | (R)-3-[5-[2-[N-(tert-Butoxycarbonyl)-N-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl]amino]propyl]-7-carbamoyl-1H-indol-1-yl]propyl 2-ethylbutyrate | 1.56 g | C(C)C(C(=O)OCCCN1C=CC2=CC(=CC(=C12)C(N)=O)C[C@@H](C)N(CCOC1=C(C=CC=C1)OCC(F)(F)F)C(=O)OC(C)(C)C)CC | C36H48F3N3O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 5.0 ml | Cl | ClH
product | (R)-3-[7-carbamoyl-5-[2-[[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl]amino]propyl]-1H-indol-1-yl]propyl 2-ethylbutyrate | 1.10 g | C(C)C(C(=O)OCCCN1C=CC2=CC(=CC(=C12)C(N)=O)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC(F)(F)F)CC | C31H40F3N3O5
